US09302985B2
To a solution of N-chlorosuccinimide (3.95 g, 29.6 mmol) in acetonitrile (11.6 mL) and 1 M HCl (2.31 mL) at 0° C. was slowly added a solution of thioacetic acid S-(4-bromo-benzyl) ester (1.81 g, 7.39 mmol) in acetonitrile (6.3 mL) over 60 minutes whilst allowing the reaction to warm to 15° C. The remaining solution was added and reaction left to warm to room temperature for 10 minutes. The mixture was cooled to 0° C. and stirred for 1 hour. Water was added and the product was extracted with EtOAc, washed with brine, dried with Na2SO4, concentrated to give (4-bromo-phenyl)-methanesulfonyl chloride (2.6 g, 9.6 mmol). 1H NMR (300 MHz, CDCl3): δ 7.60 (d, 2 H), 7.36 (d, 2 H), 4.81 (s, 2 H).

reactant | N-chlorosuccinimide | 29.6 mmol, 3.95 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | thioacetic acid S-(4-bromo-benzyl) ester | 7.39 mmol, 1.81 g | BrC1=CC=C(CSC(C)=O)C=C1 | C9H9BrOS
reactant | Water | O | H2O
reactant | HCl | 1 M, 2.31 mL | Cl | ClH
solvent | acetonitrile | 11.6 mL | C(C)#N | C2H3N
solvent | acetonitrile | 6.3 mL | C(C)#N | C2H3N
product | (4-bromo-phenyl)-methanesulfonyl chloride | 9.6 mmol, 2.6 g | BrC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6BrClO2S
